US07202363B2
N-[4-amino-3-(4-amino-3-methoxyphenyl)thieno[3,2-c]pyridin-7-yl]-2-pyrrolidin-1-ylacetamide triacetate salt
A schlenck tube was charged with 3-(4-amino-3-methoxyphenyl)-7-iodothieno[3,2-c]pyridin-4-amine (199 mg,0.5 mmol), 2-pyrrolidin-1-ylacetamide (0.6 mmol), copper(I) iodide (4.8 mg, 0.025 mmol), potassium phosphate (225 mg, 1.06 mmol). Evacuated under vacuum and back filled with nitrogen. trans-Cyclohexane-1,2-diamine (6.5 uL, 0.05 mmol) and dioxane (1 mL) was added. The reaction tube was sealed and heated at about 110° C. overnight. The solvent was removed and the crude product was purified by reverse phase preparative HPLC to give the title compound as the tri-acetate salt. LCMS (Conditions a): MH+=398.2, Rt=1.55 min. (154 mg, 45%)

reactant | 3-(4-amino-3-methoxyphenyl)-7-iodothieno[3,2-c]pyridin-4-amine | 0.5 mmol, 199 mg | NC1=C(C=C(C=C1)C1=CSC2=C1C(=NC=C2I)N)OC | C14H12IN3OS
reactant | 2-pyrrolidin-1-ylacetamide | 0.6 mmol | N1(CCCC1)CC(=O)N | C6H12N2O
reactant | potassium phosphate | 1.06 mmol, 225 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | trans-Cyclohexane-1,2-diamine | 0.05 mmol, 6.5 uL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
catalyst | copper(I) iodide | 0.025 mmol, 4.8 mg | [Cu]I
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-[4-amino-3-(4-amino-3-methoxyphenyl)thieno[3,2-c]pyridin-7-yl]-2-pyrrolidin-1-ylacetamide triacetate salt | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)N)OC)NC(CN2CCCC2)=O | InChI=1S/C20H23N5O2S.3C2H4O2/c1-27-16-8-12(4-5-14(16)21)13-11-28-19-15(9-23-20(22)18(13)19)24-17(26)10-25-6-2-3-7-25;3*1-2(3)4/h4-5,8-9,11H,2-3,6-7,10,21H2,1H3,(H2,22,23)(H,24,26);3*1H3,(H,3,4)
